US07081470B2
1-[(5-CHLORO-2-THIENYL)METHYL]-2H-INDOLE-2,3-DIONE
A solution of isatin (125 mg, 0.85 mmol) in anhydrous dioxane (10 mL) was added dropwise to a solution of sodium hydride (60% dispersion in mineral oil, 24 mg, 0.62 mmol) in anhydrous dioxane (10 mL) at 0° C. under argon. The mixture was allowed to stir for 5 minutes and then 2-chloro-5-(chloromethyl)thiophene (0.12 mL, 1.02 mmol) in dioxane (10 mL) was added dropwise to the resulting mixture. The reaction mixture was heated at reflux under argon for 16 h and concentrated in vacuo. The crude material was purified preparative TLC using 1:24 methanol in chloroform as the eluent, giving the desired product as a yellow solid (53 mg, 0.19 mmol, 22%). 1H NMR (400 MHz): δ 7.62 (d, J=7.4, 1H), 7.56 (t, J=7.8, 1H), 7.14 (t, J=7.7, 1H), 6.94 (d, J=8.0, 1H), 6.90 (d, J=3.2, 1H), 6.78 (d, J=3.7, 1H), 4.90 (s, 2H).

reactant | isatin | 0.85 mmol, 125 mg | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | sodium hydride | 0.62 mmol, 24 mg | [H-].[Na+]
reactant | 2-chloro-5-(chloromethyl)thiophene | 1.02 mmol, 0.12 mL | ClC=1SC(=CC1)CCl | C5H4Cl2S
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-[(5-CHLORO-2-THIENYL)METHYL]-2H-INDOLE-2,3-DIONE | 0.19 mmol, 53 mg, 22% | ClC1=CC=C(S1)CN1C(C(C2=CC=CC=C12)=O)=O | C13H8ClNO2S
